US05196593
Thionyl chloride, 6.0 g (50 mmol) was added to a solution of 4.0 g (16 mmol) 3-chloro-2-fluoro-5-(trifluoromethyl) benzoic acid in 10 mL dimethylformamide. The reaction mixture was heated to 75° C. for 2 hours, cooled to room temperature and carefully added to 25 mL of ice cold ammonium hydroxide. The mixture was cooled to 0° C. and the solid product filtered, washed with water and dried to yield 3.96 g (99%) of 3-chloro-2-fluoro-5-(trifluoromethyl)benzamide.

reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3-chloro-2-fluoro-5-(trifluoromethyl) benzoic acid | 16 mmol, 4.0 g | ClC=1C(=C(C(=O)O)C=C(C1)C(F)(F)F)F | C8H3ClF4O2
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-chloro-2-fluoro-5-(trifluoromethyl)benzamide | 3.96 g, 99% | ClC=1C(=C(C(=O)N)C=C(C1)C(F)(F)F)F | C8H4ClF4NO
